US03931205
2.5 G of 2-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)propionic acid is dissolved in 80 ml of isopropyl alcohol. A solution of 2.1 g of aluminum isopropoxide in 25 ml of isopropyl alcohol is added dropwise to the solution with stirring, white crystals being immediately yielded. After refluxing the mixture for 1 hour, 3 ml of water is added, and then the whole mixture is further refluxed for 1 hour. After cooling, the crystals are filtered off, washed with isopropyl alcohol, and dried to give aluminum 2-(5H-[1]-benzopyrano[2,3-b]pyridin-7-yl)propionate as white crystals melting at above 250°C.

reactant | 2-(5H-[1]benzopyrano[2,3-b]pyridin-7-yl)propionic acid | N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)C(C(=O)O)C | C15H13NO3
reactant | aluminum isopropoxide | 2.1 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | water | 3 ml | O | H2O
solvent | isopropyl alcohol | 80 ml | C(C)(C)O | C3H8O
solvent | isopropyl alcohol | 25 ml | C(C)(C)O | C3H8O
product | aluminum 2-(5H-[1]-benzopyrano[2,3-b]pyridin-7-yl)propionate | N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)C(C(=O)[O-])C.[Al+3].N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)C(C(=O)[O-])C.N1=C2C(=CC=C1)CC1=C(O2)C=CC(=C1)C(C(=O)[O-])C | InChI=1S/3C15H13NO3.Al/c3*1-9(15(17)18)10-4-5-13-12(7-10)8-11-3-2-6-16-14(11)19-13;/h3*2-7,9H,8H2,1H3,(H,17,18);/q;;;+3/p-3
